US05962479
[4--Chloro-2-methyl-6-(2,4,6-trimethylphenylamino)-pyrimidin-5-yl-acetic acid ethyl ester
A mixture of (2-methyl-4,6-dichloro-pyrimidine-5-yl)-acetic acid ethyl ester (1.470 g, 5.9 mmol) and 2,4,6-trimethylaniline (2.56 ml, 17.7 mmol), in 15 ml of dimethylsulfoxide was heated at 120° C. overnight and 138° C. for 5 hours. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was washed with brine, dried and concentrated to give a brown oil. The oil was purified through silica gel column chromatography to give 1.070 g (52%) of the title compound as a tan solid. 1H NMR (CDCl3) δ1.30 (t, 3H), 2.14 (s, 6H), 2.32 (s, 3H), 2.37 (s, 3H), 3.79 (s, 2H), 4.23 (q, 2H), 7.00 (s, 2H), 7.02 (s, 1H) ppm.

reactant | (2-methyl-4,6-dichloro-pyrimidine-5-yl)-acetic acid ethyl ester | 5.9 mmol, 1.470 g | C(C)OC(CC=1C(=NC(=NC1Cl)C)Cl)=O | C9H10Cl2N2O2
reactant | 2,4,6-trimethylaniline | 17.7 mmol, 2.56 ml | CC1=C(N)C(=CC(=C1)C)C | C9H13N
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
product | 4--Chloro-2-methyl-6-(2,4,6-trimethylphenylamino)-pyrimidin-5-yl-acetic acid ethyl ester | 1.070 g, 52% | C(C)OC(CC=1C(=NC(=NC1NC1=C(C=C(C=C1C)C)C)C)Cl)=O | C18H22ClN3O2
